US06610714B2
6-Methoxy-1,2-dihydronaphthalene was synthesized analogously to Example 5b from 7-methoxy-1,2,3,4-tetrahydro-1-naphthalenol to give 4.4 g of product brown yellow oil (96% yield from 7-methoxy-1,2,3,4-tetrahydro-1-naphthalenone).

reactant | 7-methoxy-1,2,3,4-tetrahydro-1-naphthalenol | COC1=CC=C2CCCC(C2=C1)O | C11H14O2
reactant | 7-methoxy-1,2,3,4-tetrahydro-1-naphthalenone | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
product | 6-Methoxy-1,2-dihydronaphthalene | 96% yield | COC=1C=C2C=CCCC2=CC1 | C11H12O
